US07407961B2
To a mixture of 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-5-phenyl-2-pyrazinecarboxylic acid (70 mg) and NEt3 (40.4 mg) in THF (0.7 ml), was added isobutyl chloroformate (32.7 mg) under ice-bath cooling. After 1.5 hours stirring at the same temperature, the mixture was poured into a mixture of sodium borohydride (30.2 mg) in a mixture of THF (0.7 ml) and water (1.4 ml) under ice-bath cooling. After 2.5 hours stirring at the same temperature, the mixture was diluted with water and EtOAc, and then the organic layer was separated, washed with water and brine, and dried over MgSO4. The solvent was removed under reduced pressure. The residue was purified by silica-gel column chromatography (CH2:Cl2:MeOH=25:1-10:1). A desired fraction was triturated with IPE to give 5-[5-amino-6-(hydroxymethyl)-3-phenyl-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone (24 mg).

reactant | 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-5-phenyl-2-pyrazinecarboxylic acid | 70 mg | NC=1C(=NC(=C(N1)C1=CC=CC=C1)C1=CN(C(C=C1)=O)C(C)C)C(=O)O | C19H18N4O3
reactant | NEt3 | 40.4 mg | CCN(CC)CC | C6H15N
reactant | isobutyl chloroformate | 32.7 mg | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 30.2 mg | [BH4-].[Na+]
solvent | THF | 0.7 ml | C1CCOC1 | C4H8O
solvent | THF | 0.7 ml | C1CCOC1 | C4H8O
solvent | water | 1.4 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-[5-amino-6-(hydroxymethyl)-3-phenyl-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone | 24 mg | NC=1N=C(C(=NC1CO)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C19H20N4O2
